US04952600
(Racemic)-N-[4-(3-Methoxy-1-pyrrolidinyl)-2-butynyl]-N-methyl acetamide
A mixture of 365 mg of (racemic)-3-methoxypyrrolidine, 480 mg of N-methyl-N-propargyl acetamide, 180 mg of paraformaldehyde, 0.6 ml of acetic acid, 20 ml of dioxane and cuprous chloride catalyst was stirred at reflux under argon for 1 hour. The mixture was treated with 3 ml of 5N sodium hydroxide and 2 ml of water and extracted twice with dichloromethane. The extracts were combined, concentrated and purified by chromatography (alumina), giving 610 mg of the desired product.

reactant | (racemic)-3-methoxypyrrolidine | 365 mg | COC1CNCC1 | C5H11NO
reactant | N-methyl-N-propargyl acetamide | 480 mg | CN(C(C)=O)CC#C | C6H9NO
reactant | paraformaldehyde | 180 mg | C=O | CH2O
reactant | sodium hydroxide | 5N, 3 ml | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
product | (Racemic)-N-[4-(3-Methoxy-1-pyrrolidinyl)-2-butynyl]-N-methyl acetamide | 610 mg | COC1CN(CC1)CC#CCN(C(C)=O)C | C12H20N2O2
